Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
___ Complaint:
Hypoxia, Hypotension
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ F morbidly obese, ___ transferred from OSH cyanotic.  50/palp 
at OSH, intubated at 17:00 when she received succ, etomidate, 
fentanyl, midazolam, dopa started, CXR failure vs PNA.  
Solumedrol nebs for COPD, also lasix, levo and RSC placed.
.
Per her husband, she had sprained her ankle 2 weeks ago and had 
such severe pain in her ankle that she stopped taking her lasix 
so she would not have to go to the bathroom.  He states she did 
not have fevers or chills or any other symptoms apart from 
increased fatigue and SOB.  Started using her BIPAP during the 
day because of increased dyspnea.
.
In our ED, cyanotic.  Radial and femoral art lines attempted 
(mult times) but unsuccessful. Vanc, ceftriaxone given.

 
Past Medical History:
OSA on BiPAP at home
COPD on 3L home O2, intubated w/ trach ___ years ago
Hypothyroid
Depression
Anxiety
 
Social History:
___
Family History:
NC
 
Physical Exam:
Temp: 99.8 BP: estimated at ___ systolic given femoral pulse but 
lack of radial pulse HR: 83 RR: 21 O2sat unknown, sats recording 
___
GEN: cyanotic, cool extremities
HEENT: pupils fixed and dilated, no dolls-eyes, no corneal 
reflex, ETT in place
RESP: coarse breath sounds bilaterally
CV: very distant heart sounds
ABD: obese, nd, hypoactive bowel sounds, soft, nt, no masses or 
hepatosplenomegaly
EXT: cyanotic w/ motteling, could not elicit DTRs

 
Pertinent Results:
___ 11:09PM BLOOD WBC-15.9* RBC-7.00* Hgb-18.3* Hct-61.9* 
MCV-88 MCH-26.2* MCHC-29.6* RDW-17.9* Plt ___
___ 11:09PM BLOOD Neuts-96* Bands-0 Lymphs-1* Monos-3 Eos-0 
Baso-0 ___ Myelos-0
___ 11:09PM BLOOD ___ PTT-60.8* ___
___ 11:09PM BLOOD Glucose-142* UreaN-50* Creat-2.0* Na-131* 
K-6.3* Cl-96 HCO3-20* AnGap-21*
___ 02:32AM BLOOD ___ AST-3530* AlkPhos-134* 
TotBili-2.3*
___ 11:09PM BLOOD cTropnT-0.10*
___ 02:32AM BLOOD Calcium-8.5 Phos-9.2* Mg-2.1
___ 11:16PM BLOOD pH-7.10*
___ 02:42AM BLOOD ___ pH-6.94*
___ 11:16PM BLOOD Glucose-112* Lactate-3.7* Na-134* K-5.7* 
Cl-99* calHCO3-15*
___ 02:42AM BLOOD Glucose-159* Lactate-4.6* Na-132* K-5.2 
Cl-100 calHCO3-15*
___ 11:16PM BLOOD Hgb-19.8* calcHCT-59 O2 Sat-88 COHgb-2 
MetHgb-0
___ 11:16PM BLOOD freeCa-1.06*
___ 02:42AM BLOOD freeCa-1.14
.
Endotracheal tube seen with tip approximately 4 cm above the 
carina.  
Nasogastric tube seen coursing over the stomach, the tip is 
excluded from the image.  Right-sided central venous line seen 
with tip in the region of the junction of the SVC and 
brachiocephalic vein.  Cardiac silhouette appears enlarged.  
Diffusely increased interstitial markings are seen consistent 
with CHF.  Fluid seen within the minor fissure.  Likely 
bilateral pleural effusions are noted, although the left 
costophrenic angle is excluded from the film. 
IMPRESSION:  
1.  Endotracheal tube with tip approximately 4 cm above the 
carina. 
2.  Moderate-to-severe CHF with bilateral pleural effusions.

 
Brief Hospital Course:
A/P: ___ F w/ pmh of morbid obesity, COPD on home O2, ___ 
transferred from OSH intubated with cyanosis and hypotension.  
Now deceased.
.
Brief hospital course.  Ms. ___ was transferred from the ED 
to the MICU.  On arrival, her pupils were fixed and dilated.  We 
could not palpate a radial pulse.  We could not obtain a blood 
pressure with the manual cuff but fem pulse palpable so SBP 
likely in the ___.  We continued her on levophed and dopamine 
and bolused her with 1 L NS.  We regained her blood pressure at 
126 systolic briefly but she became bradycardic and eventually 
had PEA.

___ Organ Bank was called.

Time of death 04:10 am.
 
Medications on Admission:
Unknown
 
Discharge Medications:
N/A
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
N/A
 
Discharge Condition:
N/A
 
Discharge Instructions:
N/A
 
Followup Instructions:
___